US07910740B2
[5-(4-tert-Butyl-benzyl)-4-methyl-thiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine
The title compound was prepared in analogy to example 7 without purification of the intermediate from 149 mg (1 mmol) 4-tert-butylaniline and 421 mg (6 mmol) methyl vinylketone. The crude chloroketone was used without further purification in the next step with 53 mg (0.2 mmol) [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea. The crude product was purified on silica gel with methylene chloride/methanol 19/1 yielding 45 mg (50%) of [5-(4-tert-butyl-benzyl)-4-methyl-thiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine as a brown solid. MS ISP (m/e): 447.3 (100) (M+H)+. 1H NMR (DMSO-D6, 250 MHz): δ (ppm)=10.12 (s, 1H), 7.63 (s, 1H), 7.53 (s, 1H), 7.32 (d, 2H), 7.22 (s, 2H), 7.15 (d, 2H), 7.01 (s, 1H), 3.92 (s, 2H), 3.77 (s, 3H), 2.24 (s, 3H), 2.13 (s, 3H).

reactant | 4-tert-butylaniline | 1 mmol, 149 mg | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
reactant | methyl vinylketone | 6 mmol, 421 mg | CC(=O)C=C | C4H6O
reactant | chloroketone | ClC(=O)Cl | CCl2O
reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.2 mmol, 53 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C12H14N4OS
product | [5-(4-tert-Butyl-benzyl)-4-methyl-thiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | C(C)(C)(C)C1=CC=C(CC2=C(N=C(S2)NC2=CC(=C(C=C2)N2C=NC(=C2)C)OC)C)C=C1 | C26H30N4OS
